US06075021
6-Fluoro-N,N,9-trimethyl-1-oxo-2-(pyridin-2-yl)-2,9-dihydro-1H-pyrido[3,4-b]indole-4-carboxamide
A solution of 2.5 g (7.4 mmol) of 6-fluoro-9-methyl-1-oxo-2-(pyridin-2-yl)-2,9-dihydro-1H-pyrido[3,4-b]indole-4-carboxylic acid and of 2.4 g (14.8 mmol) of N,N'-carbonyldiimidazole in 65 ml of N,N-dimethylformamide is stirred for 4 h. The reaction mixture is cooled and a large excess of liquefied dimethylamine is added. The mixture is stirred for 48 h at room temperature, poured into water and extracted with ethyl acetate. The organic phase is washed with water and dried over magnesium sulphate, and the solvent is evaporated under reduced pressure. The residue is purified by chromatography on a column of silica gel, elution being carried out with a mixture of dichloromethane and ethyl acetate. The product is recrystallized from ethyl acetate.

reactant | 6-fluoro-9-methyl-1-oxo-2-(pyridin-2-yl)-2,9-dihydro-1H-pyrido[3,4-b]indole-4-carboxylic acid | 7.4 mmol, 2.5 g | FC=1C=C2C3=C(N(C2=CC1)C)C(N(C=C3C(=O)O)C3=NC=CC=C3)=O | C18H12FN3O3
reactant | dimethylamine | CNC | C2H7N
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 65 ml | CN(C=O)C | C3H7NO
product | 6-Fluoro-N,N,9-trimethyl-1-oxo-2-(pyridin-2-yl)-2,9-dihydro-1H-pyrido[3,4-b]indole-4-carboxamide | FC=1C=C2C3=C(N(C2=CC1)C)C(N(C=C3C(=O)N(C)C)C3=NC=CC=C3)=O | C20H17FN4O2
